US04990614
1-Hydroxybenztriazole (4.63 g) and dicyclohexylcarbodimide (5.32 g) were added to a solution (200 ml) of N-tert-butoxycarbonyl-L-asparagine (6.0 g) in acetonitrile at room temperature, followed by stirring for 2 hours. Insoluble matters were removed by filtration and to the filtrate was added a solution (200 ml) of 1-benzylpiperazine (4.54 g) in acetonitrile, followed by stirring for 12 hours at room temperature. Insoluble matters were removed by filtration and the filtrate was concentrated and extracted with ethyl acetate. The ethyl acetate extract was washed with saturated aqueous sodium hydrogencarbonate solution and dried over anhydrous sodium sulfate. Then, the solvent was distilled off to obtain a colorless crystal 1-(N-tert-butoxycarbonyl-L-asparaginyl)-4-benzylpiperazine (11.3 g).

reactant | 1-Hydroxybenztriazole | 4.63 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodimide | 5.32 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-tert-butoxycarbonyl-L-asparagine | 200 ml, 6.0 g | C(C)(C)(C)OC(=O)N[C@@H](CC(N)=O)C(=O)O | C9H16N2O5
reactant | acetonitrile | C(C)#N | C2H3N
product | 1-(N-tert-butoxycarbonyl-L-asparaginyl)-4-benzylpiperazine | 11.3 g | C(C)(C)(C)OC(=O)N[C@@H](CC(N)=O)C(=O)N1CCN(CC1)CC1=CC=CC=C1 | C20H30N4O4
